US20010003780A1
4-[(E)-[5,6-Dihydro-5,5-dimethyl-8-[(E)-phenylethenyl]-2-naphthalenyl]-ethenyl]benzoic acid
Methyl 4-[(E)-[5,6-dihydro-5.5-dimethyl-8-trifluoromethanesulfonyloxy-2-naphthalenyl]ethenyl]benzoate A solution of methyl 4-[[(E)-(5,6,7,8-tetrahydro-5,5-dimethyl-8-oxo)-2-naphthalenyl]vinyl]benzoate (10.02 g, 30 mmol) in tetrahydrofuran (200 mL) at −78° C. was treated dropwise with a solution of lithium bis(trimethylsilyl)amide (1.0 M in tetrahydrofuran, 42 mL, 42 mmol). The solution was stirred for 30 minutes then treated with a solution of 2-[N,N-bis(trifluoromethyl-sulfonyl)amino]pyridine (14 g, 39 mmol) in tetrahydrofuran (100 mL). The mixture was stirred overnight and was allowed to reach room temperature. The mixture was cooled down to 0-5° C., diluted with water (200 mL) and ethyl acetate (200 mL). The organic phase was separated and the aqueous phase was extracted with ethyl acetate (100 mL). The combined organic phases were washed with brine and dried over anhydrous magnesium sulfate, filtered and concentrated. The residue was purified by silica gel chromatography (toluene to toluene/ethyl acetate 8:2) and triturated in hexanes to give the title material (10.5 g, 75%) as a white solid.

reactant | Methyl 4-[(E)-[5,6-dihydro-5.5-dimethyl-8-trifluoromethanesulfonyloxy-2-naphthalenyl]ethenyl]benzoate | CC1(C=2C=CC(=CC2C(=CC1)OS(=O)(=O)C(F)(F)F)/C=C/C1=CC=C(C(=O)OC)C=C1)C | C23H21F3O5S
reactant | lithium bis(trimethylsilyl)amide | 42 mmol, 1.0 M, 42 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 2-[N,N-bis(trifluoromethyl-sulfonyl)amino]pyridine | 39 mmol, 14 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=NC=CC=C1)(F)F | C7H4F6N2O4S2
reactant | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | water | 200 mL | O | H2O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 4-[(E)-[5,6-Dihydro-5,5-dimethyl-8-[(E)-phenylethenyl]-2-naphthalenyl]-ethenyl]benzoic acid | 10.5 g, 75% | CC1(C=2C=CC(=CC2C(=CC1)\C=C\C1=CC=CC=C1)/C=C/C1=CC=C(C(=O)O)C=C1)C | C29H26O2
